### PR TITLE
feat: deformation theory basics

### PR DESCRIPTION
**Pull request by erdOne**
This is the clean up of some basic stuff in #481, in particular everything up to the representable `sorry`.

There are still some goodies in #481 that has not been cleaned up yet. In particular some partial progresses on de Smit--Lenstra and the correspondance between the tangent space and some H1.

### CODE REVIEW

File: FLT/Deformations/IsProartinian.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+  [CommRing S] [TopologicalSpace S] [IsTopologicalRing S]
+
+variable (R) in
+/-- A topological ring is proartinian if it is linearly topologized, complete hausdorff,
+and all its discrete quotients are artinian. -/
+class IsProartinian : Prop where
+  toIsLinearTopology : IsLinearTopology R R
+  toT0Space : T0Space R
+  toCompleteSpace : letI := IsTopologicalAddGroup.toUniformSpace R; CompleteSpace R
+  isArtinianRing_quotient : ∀ I : Ideal R, IsOpen (X := R) I → IsArtinianRing (R ⧸ I)
```
Comment (kbuzzard) [inline FLT/Deformations/IsProartinian.lean:15]: Note to self: check the maths of complete space

File: FLT/Deformations/Categories.lean [hunk 2]
```diff
@@ -0,0 +1,230 @@
...
+namespace Deformation
+
+variable (𝓞 : Type u) [CommRing 𝓞]
+
+/-- A local proartinian algebra is a topological ring that is local and proartinian,
+and that the induced map on the residue fields is bijective. -/
+class IsLocalProartinianAlgebra
+    (R : Type u) [CommRing R] [TopologicalSpace R] [Algebra 𝓞 R] : Prop extends
+  IsTopologicalRing R, IsLocalRing R, IsProartinian R,
+  IsLocalHom (algebraMap 𝓞 R), IsResidueAlgebra 𝓞 R
```
Comment (kbuzzard) [inline FLT/Deformations/Categories.lean:18]: But not that O is local?

File: FLT/Deformations/Categories.lean [hunk 3]
```diff
@@ -0,0 +1,230 @@
...
+lemma coe_of (X : Type u) [CommRing X] [Algebra 𝓞 X] [TopologicalSpace X]
+    [IsLocalProartinianAlgebra 𝓞 X] :
+    of 𝓞 X = X := rfl
+
+variable {𝓞} in
+/-- The type of morphisms in `ProartinianCat 𝓞`. -/
+@[ext]
+structure Hom (A B : ProartinianCat 𝓞) where
+  /-- The underlying algebra map. -/
+  hom : A →A[𝓞] B
```
Comment (kbuzzard) [inline FLT/Deformations/Categories.lean:59]: Note to self: are any of "continuous", "local" and "O-algebra map" implied by the others?

File: FLT/Deformations/Representable.lean [hunk 4]
```diff
@@ -0,0 +1,18 @@
...
+
+variable (n : Type) [Fintype n] [DecidableEq n] (G : Type u) [Group G] [TopologicalSpace G]
+variable [T0Space G] [TotallyDisconnectedSpace G] [CompactSpace G] -- profinite
+variable (𝓞 : Type u) [CommRing 𝓞] [IsLocalRing 𝓞] [IsNoetherianRing 𝓞]
+  [Finite (ResidueField 𝓞)] [IsAdicComplete (maximalIdeal 𝓞) 𝓞] -- complete noetherian local
+variable (ρ : (repnFunctor n G 𝓞).obj .residueField) [(toRepresentation ρ).IsAbsolutelyIrreducible]
+
+lemma isCorepresentable_deformationFunctor :
+    (deformationFunctor n G 𝓞 ρ).toFunctor.IsCorepresentable := by
+  sorry -- de Smit and Lenstra, Proposition 2.3 (1).
```
Comment (kbuzzard) [inline FLT/Deformations/Representable.lean:18]: note to self: check this is the right statement

File: FLT/Deformations/Categories.lean (hunk 2 above)
Comment (alreadydone) [reply FLT/Deformations/Categories.lean:18]: We're defining a category of `R`'s, with 𝓞 fixed, so I don't think it's necessary/appropriate to include a condition solely about `R` here. Leaving out the condition makes the result more general (at least syntactically).

File: FLT/Deformations/Lemmas.lean [hunk 5]
```diff
@@ -0,0 +1,168 @@
...
+def Units.mapₜ {M N : Type*} [Monoid M] [Monoid N] [TopologicalSpace M] [TopologicalSpace N]
+    (f : M →ₜ* N) : Mˣ →ₜ* Nˣ :=
+  ⟨Units.map f,
+  continuous_induced_rng.mpr (continuous_prodMk.mpr ⟨f.2.comp Units.continuous_val,
+    MulOpposite.continuous_op.comp (f.2.comp Units.continuous_coe_inv)⟩)⟩
+
+/-- The `ContinuousAlgHom` between spaces of square matrices induced by an `ContinuousAlgHom`
+between their coefficients. This is Matrix.map as an `ContinuousAlgHom`. -/
+@[simps!]
+def _root_.ContinuousAlgHom.mapMatrix
```
Comment (alreadydone) [inline FLT/Deformations/Lemmas.lean:27]:
```suggestion
def ContinuousAlgHom.mapMatrix
```
(same below)

File: FLT/Deformations/Lemmas.lean [hunk 6]
```diff
@@ -0,0 +1,168 @@
+import Mathlib.RingTheory.LocalRing.ResidueField.Basic
+import Mathlib.Topology.Algebra.Algebra.Equiv
+import Mathlib.Topology.Algebra.LinearTopology
+import Mathlib.Topology.Instances.Matrix
+import Mathlib.Topology.UniformSpace.DiscreteUniformity
+
+lemma exists_ideal_isMaximal_and_isOpen_of_isLinearTopology
```
Comment (alreadydone) [inline FLT/Deformations/Lemmas.lean:7]: Might be better to use `IsLinearTopology` namespace.

File: FLT/Deformations/Lemmas.lean [hunk 7]
```diff
@@ -0,0 +1,168 @@
...
+    ∃ I : Ideal R, I.IsMaximal ∧ IsOpen (X := R) I := by
+  obtain ⟨I, hI, hI'⟩ := IsLinearTopology.hasBasis_open_ideal.mem_iff.mp
+    ((isClosed_singleton (x := (1 : R))).isOpen_compl.mem_nhds (x := 0) (by simp))
+  obtain ⟨J, hJ, hIJ⟩ := Ideal.exists_le_maximal I (by simpa [Ideal.eq_top_iff_one] using hI')
+  exact ⟨J, hJ, AddSubgroup.isOpen_mono (H₁ := I.toAddSubgroup) (H₂ := J.toAddSubgroup) hIJ hI⟩
+
+/-- The continuous group homomorphism on units induced by a `ContinuousMonoidHom`. -/
+@[simps!]
+def Units.mapₜ {M N : Type*} [Monoid M] [Monoid N] [TopologicalSpace M] [TopologicalSpace N]
+    (f : M →ₜ* N) : Mˣ →ₜ* Nˣ :=
```
Comment (alreadydone) [inline FLT/Deformations/Lemmas.lean:19]: Almost everything in this file looks suitable for mathlib. Should they be moved to the Mathlib folder?

File: FLT/Deformations/Lemmas.lean [hunk 8]
```diff
@@ -0,0 +1,168 @@
...
+    {f : α → β} {x : α} [DiscreteTopology β] :
+    ContinuousAt f x ↔ ∀ᶠ y in 𝓝 x, f y = f x := by
+  simp [ContinuousAt]
+
+nonrec
+instance ContinuousAlgHom.isLocalHom_id {R A : Type*}
+    [CommSemiring R] [Semiring A] [Algebra R A] [TopologicalSpace A] :
+    IsLocalHom (ContinuousAlgHom.id R A) := by
+  convert isLocalHom_id A
+  exact ⟨fun ⟨H⟩ ↦ ⟨H⟩, fun ⟨H⟩ ↦ ⟨H⟩⟩
```
Comment (alreadydone) [inline FLT/Deformations/Lemmas.lean:120]: To avoid this `⟨fun ⟨H⟩ ↦ ⟨H⟩, fun ⟨H⟩ ↦ ⟨H⟩⟩` boilerplate, you probably want to add `@[mk_iff]` to `IsLocalHom`, and the defeq should work after rewriting by `isLocalHom_iff`.

File: FLT/Deformations/IsProartinian.lean [hunk 9]
```diff
@@ -0,0 +1,79 @@
...
+
+instance [IsLocalRing R] [IsLocalRing.IsAdicTopology R] [IsNoetherianRing R] [CompactSpace R] :
+    IsProartinian R := by
+  constructor
+  · infer_instance
+  · infer_instance
+  · infer_instance
+  · intro I hI
+    have : Finite (R ⧸ I) := AddSubgroup.quotient_finite_of_isOpen _ hI
+    infer_instance
```
Comment (alreadydone) [inline FLT/Deformations/IsProartinian.lean:40]:
```suggestion
class IsProartinian : Prop extends IsLinearTopology R R, T0Space R,
    letI := IsTopologicalAddGroup.toUniformSpace R; CompleteSpace R where
  isArtinianRing_quotient (I : Ideal R) : IsOpen (X := R) I → IsArtinianRing (R ⧸ I)

attribute [instance low] IsProartinian.toIsLinearTopology
  IsProartinian.toT0Space IsProartinian.toCompleteSpace

lemma isProartinian_iff_isArtinianRing [DiscreteTopology R] :
    IsProartinian R ↔ IsArtinianRing R := by
  constructor <;> intro
  · have := IsProartinian.isArtinianRing_quotient (⊥ : Ideal R) (isOpen_discrete _)
    exact (RingEquiv.quotientBot R).surjective.isArtinianRing
  · exact ⟨fun I _ ↦ inferInstance⟩

instance [DiscreteTopology R] [IsArtinianRing R] : IsProartinian R := by
  rwa [isProartinian_iff_isArtinianRing]

instance [IsLocalRing R] [IsLocalRing.IsAdicTopology R] [IsNoetherianRing R] [CompactSpace R] :
    IsProartinian R where
  isArtinianRing_quotient I hI :=
    have : Finite (R ⧸ I) := AddSubgroup.quotient_finite_of_isOpen _ hI
    inferInstance
```

**Review by alreadydone — COMMENTED** [review]
Haven't taken a look of the files LiftFunctor, Subfunctor and Representable yet ...

File: FLT/Deformations/Subfunctor.lean [hunk 10]
```diff
@@ -0,0 +1,213 @@
+-- **Modified from `Subpresheaf.lean` in mathlib**
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:1]: Looks like the file [CategoryTheory.Subpresheaf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Subpresheaf/Basic.html#CategoryTheory.Subpresheaf). Probably we should just replace Subpresheaf by Subfunctor? So this file should go into the Mathlib folder?

File: FLT/Deformations/Subfunctor.lean [hunk 11]
```diff
@@ -0,0 +1,213 @@
...
+import Mathlib
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:2]: Why is this importing the whole mathlib?

File: FLT/Deformations/Subfunctor.lean [hunk 12]
```diff
@@ -0,0 +1,213 @@
...
+
+variable {C : Type u} [Category.{v} C]
+
+/-- A Subfunctor of a functor consists of a subset of `F.obj U` for every `U`,
+compatible with the restriction maps `F.map i`. -/
+@[ext]
+structure Subfunctor (F : C ⥤ Type w) where
+  /-- If `G` is a sub-functor of `F`, then the sections of `G` on `U` forms a subset of sections of
+    `F` on `U`. -/
+  obj : ∀ U, Set (F.obj U)
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:32]: I'm not sure why there isn't a SetLike instance on Subpresheaf; the PartialOrder instance would be automatic if there is. And we can probably construct a Galois insertion to `Set (Π U, Set (F.obj U))`.

File: FLT/Deformations/Subfunctor.lean [hunk 13]
```diff
@@ -0,0 +1,213 @@
...
+@[deprecated (since := "2025-01-08")] alias GrothendieckTopology.Subfunctor := Subfunctor
+
+variable {F F' F'' : C ⥤ Type w} (G G' : Subfunctor F)
+
+instance : PartialOrder (Subfunctor F) :=
+  PartialOrder.lift Subfunctor.obj (fun _ _ => Subfunctor.ext)
+
+instance : CompleteLattice (Subfunctor F) where
+  sup F G :=
+    { obj U := F.obj U ⊔ G.obj U
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:46]: This should use ∪ rather than ⊔ (and ∩ ⋃₀ ⋂₀ should be used below).

File: FLT/Deformations/Subfunctor.lean [hunk 14]
```diff
@@ -0,0 +1,213 @@
...
+    (⨆ i, S i).obj U = ⋃ i, (S i).obj U := by
+  simp [iSup, sSup_obj]
+
+@[simp]
+lemma iInf_obj {ι : Type*} (S : ι → Subfunctor F) (U : C) :
+    (⨅ i, S i).obj U = ⋂ i, (S i).obj U := by
+  simp [iInf, sInf_obj]
+
+@[simp]
+lemma max_obj (S T : Subfunctor F) (i : C) :
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:116]: These are unfortunately misnamed in mathlib ...
```suggestion
lemma sup_obj (S T : Subfunctor F) (i : C) :
```

File: FLT/Deformations/Subfunctor.lean [hunk 15]
```diff
@@ -0,0 +1,213 @@
...
+    (S ⊔ T).obj i = S.obj i ∪ T.obj i := rfl
+
+@[simp]
+lemma min_obj (S T : Subfunctor F) (i : C) :
+    (S ⊓ T).obj i = S.obj i ∩ T.obj i := rfl
+
+lemma max_min (S₁ S₂ T : Subfunctor F) :
+    (S₁ ⊔ S₂) ⊓ T = (S₁ ⊓ T) ⊔ (S₂ ⊓ T) := by
+  aesop
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:125]: This should be a DistribLattice instance.

File: FLT/Deformations/Subfunctor.lean [hunk 16]
```diff
@@ -0,0 +1,213 @@
...
+
+lemma iSup_min {ι : Type*} (S : ι → Subfunctor F) (T : Subfunctor F) :
+    (⨆ i, S i) ⊓ T = ⨆ i, S i ⊓ T := by
+  aesop
+
+instance : Nonempty (Subfunctor F) :=
+  inferInstance
+
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:133]: Is this necessary to satisfy some linter?
```suggestion
```

File: FLT/Deformations/Subfunctor.lean [hunk 17]
```diff
@@ -0,0 +1,213 @@
...
+  constructor
+  · rintro rfl
+    infer_instance
+  · intro H
+    ext U x
+    apply (iff_of_eq (iff_true _)).mpr
+    rw [← IsIso.inv_hom_id_apply (G.ι.app U) x]
+    exact ((inv (G.ι.app U)) x).2
+
+theorem nat_trans_naturality (f : F' ⟶ G.toFunctor) {U V : C} (i : U ⟶ V)
```
Comment (alreadydone) [inline FLT/Deformations/Subfunctor.lean:205]:
```suggestion
theorem natTrans_naturality (f : F' ⟶ G.toFunctor) {U V : C} (i : U ⟶ V)
```

File: FLT/Deformations/Subfunctor.lean (hunk 10 above)
Comment (erdOne) [reply FLT/Deformations/Subfunctor.lean:1]: Indeed. I have not yet made up my mind if this should replece it or if we should have both.
And hence I also prefer if this file is not touched to keep its similarity with the original file despite that your reviews to this file makes a lot of sense.

**Comment by erdOne** [comment]
I don't have a preference over pro-artinian or pseudo compact. As for `ProartinianCat`, I prefer the shorter name unless there are ambiguities (the descriptive name might be `ProartinianLocalAlgebraWithFixedResidueFieldCat`).

**Comment by alreadydone** [comment]
The category of algebras is [AlgCat](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/AlgCat/Basic.html#AlgCat) so it would be `ProartinianAlgCat` which is only 3 letters longer ...

**Comment by kbuzzard** [comment]
Thanks a lot!
